US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)ethanesulfonamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and ethanesulfonyl chloride according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.84 (t, J=7.45 Hz, 3H) 1.33 (t, J=7.33 Hz, 3H) 1.56 (dq, J=15.00, 7.46 Hz, 2H) 2.77-2.83 (m, 2H) 3.49-3.51 (m, 2H) 6.72 (d, J=8.59 Hz, 2H) 7.29 (d, J=8.34 Hz, 2H) 7.63 (t, J=7.58 Hz, 1H) 7.80 (t, J=7.71 Hz, 1H) 7.94 (d, J=8.34 Hz, 1H) 8.14 (d, J=8.08 Hz, 1H) 12.92 (s, 1H); ESI-MS: m/z calc'd for C23H24N4O3S2 468.59. found 469.2 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)ethanesulfonamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NS(=O)(=O)CC | C23H24N4O3S2
